US08703826B2
(S)-(+)-2-Benzylaminoheptane [(S)-15].
A sample of 0.15 mL (1 mmol) of (S)-(+)-2-aminoheptane ((S)-44) 0.1 mL (1 mmol) of benzaldehyde and 0.1 mL of HOAc were combined in 10 mL of CH2Cl2 and cooled to 0° C., then added 650 mg (3 mmol) of sodium triacetoxyborohydride in one portion. The reaction mixture was stirred under argon at room temperature for 28 hours. The mixture was diluted with 10 mL of dichloromethane, cooled in an ice bath and 20 mL of 5% NaOH (in water) was added. Fractions were separated, organics were dried (Na2SO4) and evaporated to 154 mg (70%). 1H NMR (CDCl3) 600.88 (m, 3H), 1.08 (d, 3H J=6.6 Hz), 1.19-1.37 (m, 6H), 1.41-1.67 (m, 2H), 3.62-3.77 (m, 1H), 3.75 (p, 2H, J=12 Hz), 7.17-7.41 (m, 5H); MS (APCI+) m/z (rel): 206 (100); [α]D=+7.8° (c=1.0, MeOH).

reactant | (S)-(+)-2-aminoheptane | 1 mmol, 0.15 mL | N[C@@H](C)CCCCC | C7H17N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 3 mmol, 650 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | HOAc | 0.1 mL | CC(=O)O | C2H4O2
product | (S)-(+)-2-Benzylaminoheptane | C(C1=CC=CC=C1)N[C@@H](C)CCCCC | C14H23N
